US05690909
a) 4,4,4-Trifluoro-3,3-bis(trifluoromethyl)-1,2-epoxybutane
32.9 g (105 mmol) of 3-chloroperbenzoic acid with a peracid content of 55% is added in portions with stirring and cooling with water to a solution of 24.6 g (100 mmol) of 4,4,4-trifluoro-3,3-bis(trifluoromethyl)-but-1-ene in 150 ml of absolute diethyl ether. After addition is completed, it is refluxed for 3 hours. It is allowed to cool, and the solution is stirred in cold, saturated sodium bicarbonate solution. The ethereal solution is separated, washed with sodium chloride solution, dried on sodium sulfate and concentrated by evaporation on a column. The residue is purified by bulb tube distillation (vacuum 30 mbar, 130° C. bath).

reactant | 3-chloroperbenzoic acid | 105 mmol, 32.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
reactant | 4,4,4-trifluoro-3,3-bis(trifluoromethyl)-but-1-ene | 100 mmol, 24.6 g | FC(C(C=C)(C(F)(F)F)C(F)(F)F)(F)F | C6H3F9
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4,4,4-Trifluoro-3,3-bis(trifluoromethyl)-1,2-epoxybutane | FC(C(C1CO1)(C(F)(F)F)C(F)(F)F)(F)F | C6H3F9O
